US07335799B2
Anhydrous tert-butyl methyl ether (MTBE, 200 mL) and anhydrous pyridine (30 mL) were added to nicotinoyl chloride hydrochloride (12.3 g, 69 mmol). The mixture was stirred at room temperature under nitrogen atmosphere for 1 h, then cooled to 0° C. A solution of 2,2,14,14-tetramethyl-8-(tetrahydropyran-2-yloxy)-pentadecane-1,15-diol (8.8 g, 21.9 mmol) in anhydrous MTBE (50 mL) was added and the mixture was stirred overnight at room temperature. The mixture was washed with deionized water (3×50 mL), saturated NaHCO3 solution (2×50 mL) and brine (50 mL), and dried over magnesium sulfate. The solvent was removed under reduced pressure to give the crude product as a light yellow oil (11.1 g), which was purified by chromatography (silica gel, 75 g, heptanes:ethyl acetate=10:1, 7:1, 5:1) to give nicotinic acid 8-(tetrahydropyran-2-yloxy)-2,2,14,14-tetramethyl-15-nicotinoylpentadecyl ester (9.2 g, 69%) as a viscous, yellow oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 9.37-9.15 (m, 2H), 8.79 (dd, J=4.8, 1.7 Hz, 2H), 8.30 (dt, J=7.9, 1.9 Hz, 2H), 7.41 (dd, J=4.8, 7.9 Hz, 2H), 4.71-4.55 (m, 1H), 4.07 (s, 4H), 3.99-3.80 (m, 1H), 3.69-3.52 (m, 1H), 3.52-3.35 (m, 1H), 1.92-1.08 (m, 26H), 1.00 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 165.23, 153.34, 150.85, 136.99, 126.40, 123.36, 97.69, 76.77, 73.45, 62.91, 39.54, 39.49, 35.19, 34.23, 33.70, 31.42, 30.97, 30.88, 25.84, 25.74, 25.26, 24.61, 24.07, 20.25. HRMS (EI, POS): Calcd for C36H54N2O6 (M+): 610.3982, found: 610.3977. Elemental analysis (C36H54N2O6): Calcd for C, 70.79; H, 8.91; N, 4.59. Found: C, 70.71; H, 9.06; N, 4.48.

reactant | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
reactant | nicotinoyl chloride hydrochloride | 69 mmol, 12.3 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 2,2,14,14-tetramethyl-8-(tetrahydropyran-2-yloxy)-pentadecane-1,15-diol | 21.9 mmol, 8.8 g | CC(CO)(CCCCCC(CCCCCC(CO)(C)C)OC1OCCCC1)C | C24H48O4
reactant | MTBE | 50 mL | CC(C)(C)OC | C5H12O
reactant | tert-butyl methyl ether | 200 mL | COC(C)(C)C | C5H12O
product | nicotinic acid 8-(tetrahydropyran-2-yloxy)-2,2,14,14-tetramethyl-15-nicotinoylpentadecyl ester | 9.2 g, 69% | O1C(CCCC1)OC(CCCCCC(COC(C1=CN=CC=C1)=O)(C)C)CCCCCC(CC(C1=CN=CC=C1)=O)(C)C | C36H54N2O5
